US07169932B2
Preparation of acetic acid 3-{(1S,2S)-3-[(4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidin-3-yl]-1-benzyl-2-hydroxy-3-oxo-propylcarbamoyl}-2-methyl-phenyl ester
(2S,3S)-3-(3-Acetoxy-2-methyl-benzoylamino)-2-hydroxy-4-phenyl-butyric acid (271 g; 731 mmol) was added to a 5-L flask containing a solution of (4R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide (161 g; 804 mmol) in 2-methyltetrahydrofuran (1.20 L total solution), while using 2-methyltetrahydrofuran (500 mL) for rinsing. HOBt.H2O (32.6 g; 241 mmol) was added, using 2-methyltetrahydrofuran (50 mL) for rinsing. The white suspension was allowed to stir at room temperature for 10 min. Diisopropylcarbodiimide (119 mL; 760 mmol) was added in three portions (40 mL+40 mL+39 mL) at 30 min intervals. One hour after the final DIC addition, Celite (100 g) was added and the suspension was allowed to stir at room temperature for 3 h. The mixture was vacuum-filtered, while 2-methyltetrahydrofuran (400 mL) was used to rinse over the solids and wash the resulting filter cake. The filtrate was transferred to 4-L separatory funnel, using 2-methyltetrahydrofuran (50 mL) for rinsing. The solution was washed with 1 N HCl (1.25 L), and then with an aqueous solution of NaHCO3 (27 g), NaCl (134 g) and H2O (1.25 L). The resulting organic phase was transferred to a 3-L distillation flask and the solution was then reduced to a volume of 1.12 L by distillation of 2-methyltetrahydrofuran at one atmosphere. The solution was then diluted with 2-methyltetrahydrofuran (230 mL) to bring the total volume to 1.35 L. After cooling the solution to 23° C., the solution of crude acetic acid 3-{(1 S,2S)-3-[(4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidin-3-yl]-1-benzyl-2-hydroxy-3-oxo-propylcarbamoyl}-2-methyl-phenyl ester on directly into the next step.

reactant | (2S,3S)-3-(3-Acetoxy-2-methyl-benzoylamino)-2-hydroxy-4-phenyl-butyric acid | 731 mmol, 271 g | C(C)(=O)OC=1C(=C(C(=O)N[C@H]([C@@H](C(=O)O)O)CC2=CC=CC=C2)C=CC1)C | C20H21NO6
reactant | (4R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide | 804 mmol, 161 g | C(C=C)NC(=O)[C@H]1NCSC1(C)C | C9H16N2OS
reactant | H2O | 241 mmol, 32.6 g | O | H2O
reactant | Diisopropylcarbodiimide | 760 mmol, 119 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
solvent | 2-methyltetrahydrofuran | 1.20 L | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 50 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 500 mL | CC1OCCC1 | C5H10O
product | acetic acid 3-{(1S,2S)-3-[(4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidin-3-yl]-1-benzyl-2-hydroxy-3-oxo-propylcarbamoyl}-2-methyl-phenyl ester | C(C=C)NC(=O)[C@H]1N(CSC1(C)C)C([C@H]([C@H](CC1=CC=CC=C1)NC(=O)C=1C(=C(C=CC1)OC(C)=O)C)O)=O | C29H35N3O6S
